US04600722
3-Amino-5-methyl-1-(4,5,6,7-tetrahydro-benzothiazolyl)-2-pyrazoline
20 g of 2-hydrazino-4,5,6,7-tetrahyro-benzothiazole hydrochloride are added to a sodium ethylate solution of 5.7 g of sodium and 250 ml of ethanol and the mixture is stirred at room temperature for 10 minutes. 5.5 g of crotononitrile are then added dropwise and the mixture is boiled under reflux for 5 hours. After cooling, the ethanol is stripped off in vacuo and the residue is taken up in water. The insoluble material is filtered off and washed thoroughly with water, acetone and ether in succession. After drying, 11.8 g of beige crystals of 3-amino-5-methyl-1-(4,5,6,7-tetrahydro-benzothiazolyl)-2-pyrazoline of melting point 247°-249° C. are obtained.

reactant | 2-hydrazino-4,5,6,7-tetrahyro-benzothiazole hydrochloride | 20 g | Cl.N(N)C=1SC2=C(N1)CCCC2
reactant | sodium ethylate solution | CC[O-].[Na+]
reactant | sodium | 5.7 g | [Na] | Na
reactant | crotononitrile | 5.5 g | C(\C=C\C)#N | C4H5N
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 3-Amino-5-methyl-1-(4,5,6,7-tetrahydro-benzothiazolyl)-2-pyrazoline | 11.8 g | NC1=NN(C(C1)C)C=1SC2=C(N1)CCCC2 | C11H16N4S
